US07858621B2
Step 3: 3-(6-Bromo-pyridin-3-yl)-N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-acrylamide
N-(4-Aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide HCl salt (63 mg, 0.219 mmol) was suspended in THF and treated with triethylamine (25 mg, 0.241 mmol) and then the resulting mixture was stirred for 10 mins. 3-(6-bromo-pyridin-3-yl)-acrylic acid (50 mg, 0.219 mmol) was added to the reaction mixture followed by DMTMM (66 mg, 0.241 mmol) after 10 mins. The resulting mixture was stirred overnight at ambient temperature and then diluted with EtOAc. The resulting solution was washed successively with water, sat'd NaHCO3 (×2), and brine, and then dried over anhyd. Na2SO4, filtered and concentrated under reduced pressure. The crude residue was recrystallized (EtOAc/n-Hexane) to yield the title compound (71 mg, 72%).

reactant | N-(4-Aminomethyl-2-ethynyl-6-fluoro-phenyl)-methanesulfonamide HCl salt | 0.219 mmol, 63 mg | Cl.NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)C#C
reactant | triethylamine | 0.241 mmol, 25 mg | C(C)N(CC)CC | C6H15N
reactant | 3-(6-bromo-pyridin-3-yl)-acrylic acid | 0.219 mmol, 50 mg | BrC1=CC=C(C=N1)C=CC(=O)O | C8H6BrNO2
reactant | DMTMM | 0.241 mmol, 66 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(6-Bromo-pyridin-3-yl)-N-(3-ethynyl-5-fluoro-4-methanesulfonylamino-benzyl)-acrylamide | 71 mg, 72% | BrC1=CC=C(C=N1)C=CC(=O)NCC1=CC(=C(C(=C1)F)NS(=O)(=O)C)C#C | C18H15BrFN3O3S
